US07718669B2
(6-Chloro-[1,2,3]triazolo[4,5-b]pyridin-1-yl)-(4-methyl-piperidin-1-yl)-methanone
6-Chloro-1H-[1,2,3]triazolo[4,5-b]pyridine (200 mg, 1.29 mmol) and 4-methyl-piperidin-1-carbonyl chloride (418 mg, 2.56 mmol) were dissolved in 10 ml of pyridine. Then triethylamine (180 μl, 3.88 mmol) was added and stirred at room temperature for 4 h and left to stand overnight. The reaction mixture was concentrated and the residue was mixed with water and ethyl acetate. The organic phase was separated off, the aqueous phase was extracted once more, and the combined organic phases were washed with water and concentrated. The crude product was purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 106 mg (29%) of (6-chloro-[1,2,3]triazolo[4,5-b]pyridin-1-yl)-(4-methyl-piperidin-1-yl)-methanone, M+H+: 280.2.

reactant | 6-Chloro-1H-[1,2,3]triazolo[4,5-b]pyridine | 1.29 mmol, 200 mg | ClC=1C=C2C(=NC1)N=NN2 | C5H3ClN4
reactant | 4-methyl-piperidin-1-carbonyl chloride | 2.56 mmol, 418 mg | CC1CCN(CC1)C(=O)Cl | C7H12ClNO
reactant | triethylamine | 3.88 mmol, 180 μl | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (6-Chloro-[1,2,3]triazolo[4,5-b]pyridin-1-yl)-(4-methyl-piperidin-1-yl)-methanone | ClC=1C=C2C(=NC1)N=NN2C(=O)N2CCC(CC2)C | C12H14ClN5O
